* C:\Users\tomii\Documents\LTspice\Draft8.asc
Vg Vin 0 SINE(0 0.3 1k 1m 0 0 0) AC 1 0
C1 N009 Vin 10µ
Q1 N003 N009 N011 0 2N5769
R1 N001 N003 10k
R2 N011 N013 400
C2 N005 N003 100p
Rload Vout 0 8
C3 Vout N012 470µ
Q2 N005 N003 N001 0 BC557B
R5 N012 N011 6k
C4 N013 0 100µ
Vdc N001 0 13
Q3 N001 N005 N008 0 BC337-40
R3 N008 N012 0.47
Q4 0 N014 P001 0 BC327-40
R4 N012 P001 0.47
R7 N005 N014 155
R6 N014 Vout 1050
Q5 N004 N007 N010 0 2N2222
V2 N006 0 SINE(0 0.7 1k 0 0 0 0)
R8 N002 N004 10k
V3 N002 0 13
R9 N001 N009 600
R10 N009 0 700
C5 N007 N006 10µ
R11 N002 N007 3k
R12 N007 0 7k
R13 N010 0 100
.model NPN NPN
.model PNP PNP
.lib C:\Users\tomii\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 2.5m
* .ac dec 1000 0.1 10Meg
.meas average avg v(vout)/v(vin) from 1.01m to 2.5m
.backanno
.end
